US05102667
N,N'-Carbonyldiimidazole (0.35 g) is added to a solution of 2-[2-(4-morpholinyl)phenyl]acetic acid (0.48 g) in dry dichloromethane (25 cc), cooled to +5° C. The mixture is stirred for 75 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (0.71 g) and triethylamine (0.6 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred for 1 hour at +5° C. and then for 8 hours at 20° C. It is washed with distilled water (3×100 cc) and with saturated sodium chloride solution (100 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.04-0.063 mm, diameter 2.2 cm, height 12 cm), eluting with a mixture of ethyl acetate and cyclohexane (70/30 by volume) under a nitrogen pressure of 0.7 bar and collecting 50 cc fractions. Fractions 4 and 5 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from ethylene oxide (2 cc). The crystals are drained, washed with isopropyl ether (1 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-2-[2-[2-(4-morpholinyl)phenyl]acetyl]-4-perhydroisoindolone (0.27 g) melting at 167° C. is obtained.

reactant | 2-[2-(4-morpholinyl)phenyl]acetic acid | 0.48 g | N1(CCOCC1)C1=C(C=CC=C1)CC(=O)O | C12H15NO3
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 0.71 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.6 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[2-[2-(4-morpholinyl)phenyl]acetyl]-4-perhydroisoindolone | 0.27 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)N1CCOCC1)=O)=O)C1=CC=CC=C1 | C32H34N2O3
